US07902219B2
0.42 g of 2-benzoyl-6-nitroimidazo[1,2-a]pyridine in 20 mL of boiling ethanol is treated with 10 mL of 0.5 N sodium hydroxide solution and 2.77 g of sodium dithionite. After 10 minutes at 80° C., the reaction medium is cooled, filtered and concentrated to dryness to give the crude (6-aminoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone, which is used without further purification.

reactant | 2-benzoyl-6-nitroimidazo[1,2-a]pyridine | 0.42 g | C(C1=CC=CC=C1)(=O)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1 | C14H9N3O3
reactant | sodium hydroxide | 0.5 N, 10 mL | [OH-].[Na+]
reactant | sodium dithionite | 2.77 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (6-aminoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone | NC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C14H11N3O
